US04642308
The procedure is similar to that described in Example 1, but starting with 4-methoxybenzoic acid (11.5 g), N,N'-carbonyldiimidazole (12 g) and 2-amino-7-propargyloxy-1,8-naphthyridine (10 g). The product produced by precipitation in water (15.3 g; m.p. 140° C.) is dissolved in boiling ethanol (190 cc). After 3 hours' cooling at 4° C., the crystallised solid is separated by filtration, washed with ethanol (3×20 cc) and dried at 50° C. under reduced pressure (0.067 kPa). N-(7-propargyloxy-1,8-naphthyridin-2-yl)-4-methoxybenzamide (10.1 g) is produced, m.p. 140° C.

reactant | 4-methoxybenzoic acid | 11.5 g | COC1=CC=C(C(=O)O)C=C1 | C8H8O3
reactant | 2-amino-7-propargyloxy-1,8-naphthyridine | 10 g | NC1=NC2=NC(=CC=C2C=C1)OCC#C | C11H9N3O
reactant | ethanol | 190 cc | C(C)O | C2H6O
solvent | water | 15.3 g | O | H2O
product | N-(7-propargyloxy-1,8-naphthyridin-2-yl)-4-methoxybenzamide | 10.1 g | C(C#C)OC1=CC=C2C=CC(=NC2=N1)NC(C1=CC=C(C=C1)OC)=O | C19H15N3O3
